** sch_path: /foss/designs/a_zonetic2026/XSCHEM_v2/DECODER_MAX.sch
**.subckt DECODER_MAX VDD XY XZ X Y YZ Z VSS
*.ipin XY
*.ipin XZ
*.ipin YZ
*.iopin VDD
*.iopin VSS
*.opin X
*.opin Y
*.opin Z
x3 VDD XZ Z YZ VSS xGates
x2 XY YZ VDD Y VSS yGates
x1 VSS VDD XY XZ X Z
**** begin user architecture code


* THE MAXIMUM DECODER. The same three gates as today's DECODER, with the
* inputs permuted: no new cell is needed.
*
*   xGates  = AND(a,b)        -> Z = XZ . YZ
*   yGates  = AND(a,~b)       -> Y = XY . ~YZ
*   Z       = NOR(a,b)        -> X = ~XY . ~XZ
*
* With the gradient components at the input, this names which one is the MOST
* POSITIVA, o sea hacia que sentido apunta el gradiente. El DECODER de hoy
* names the most negative. Both come from the SAME three comparators, which is
* what makes the sense cost three gates and not a whole chain.


**** end user architecture code
**.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/xGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sch
.subckt xGates VDD XY output XZ VSS
*.ipin XY
*.opin output
*.ipin VDD
*.ipin VSS
*.ipin XZ
x2 XY VDD XZ output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/yGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sch
.subckt yGates YZ XY VDD output VSS
*.ipin VDD
*.ipin VSS
*.ipin YZ
*.ipin XY
*.opin output
x2 VDD net1 XY VSS invertor
x3 YZ VDD net1 output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/Z.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sch
.subckt Z VSS VDD XZ YZ out
*.iopin VSS
*.iopin VDD
*.ipin XZ
*.ipin YZ
*.opin out
XM4 net1 YZ out VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VDD XZ net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 VSS YZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VSS XZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/andGate.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sch
.subckt andGate A VDD B output VSS
*.ipin VDD
*.ipin B
*.ipin A
*.ipin VSS
*.opin output
XM4 output net1 VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS net1 output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VDD A net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VDD B net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VSS A net2 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 net2 B net1 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/invertor.sym # of pins=4
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sch
.subckt invertor VDD output In VSS
*.opin output
*.ipin In
*.ipin VDD
*.ipin VSS
XM4 output In VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS In output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2)
+ * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
